US05451677
2-(4-Aminophenyl)ethylcarbamic acid phenylmethyl ester
A solution of 5.00 g (36.7 mmol) of 2-(4-aminophenyl)ethylamine in 100 mL of chloroform was cooled to 0° C. and 3.72 g (5.20 mL, 36.8 mmol) of triethylamine was added. A solution of 6.26 g (5.2 mL, 36.8 mmol) of benzyl chloroformate in 40 mL of chloroform was then added dropwise over a 30-min period. The reaction was allowed to stir at 0° C. for 2 h. It was diluted with 100 mL of chloroform, washed with 100-mL portions of water and brine, dried over sodium sulfate and concentrated. The residue was dissolved in 50% ethyl acetate/hexane and stirred with 30 g of silica gel, filtered, and concentrated. Further purification by recrystallization from ethyl acetate/hexanes gave 4.82 g (49%) of the title compound as a white solid: 1H NMR (400 MHz, CDCl3) 7.33 (s, 5H), 6.94 (d, 2H, J= 8.2 Hz), 6.60 (d, 2H, J=8.2 Hz), 5.07 (s, 2H), 4.84 (broad s, 1H), 3.55 (broad s, 2H), 3.37 (m, 2H), 2.67 (t, 2H, J=6.9 Hz). FAB MS m/z 271 (M+1).

reactant | 2-(4-aminophenyl)ethylamine | 36.7 mmol, 5.00 g | NC1=CC=C(C=C1)CCN | C8H12N2
reactant | triethylamine | 36.8 mmol, 5.20 mL, 3.72 g | C(C)N(CC)CC | C6H15N
reactant | benzyl chloroformate | 36.8 mmol, 5.2 mL, 6.26 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | chloroform | 100 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 40 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 100 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-(4-Aminophenyl)ethylcarbamic acid phenylmethyl ester | 4.82 g, 49% | C1(=CC=CC=C1)COC(NCCC1=CC=C(C=C1)N)=O | C16H18N2O2
